US09227976B2
4-chloro-1-[2-(3,3-difluoropyrrolidin-1-yl)ethyl]-3,5-diphenyl-pyrazolo[3,4-c]pyridazine (Compound IIv)
A solution of 4-chloro-1-(2-iodoethyl)-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine (91 mg, 0.2 mmol) in dry CH2Cl2 (2 mL) was added to 3,3-difluoropyrrolidine hydrochloride (143 mg, 1 mmol), DIPEA (0.2 mL, 1.1 mmol) was added and the reaction stirred for 5 days. The resultant residue was purified using chromatography (silica gel, gradient 20 to 50% ethyl acetate/isohexane, followed by preparative HPLC to provide Compound IIv as a white solid (24.5 mg).

reactant | 4-chloro-1-(2-iodoethyl)-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | 0.2 mmol, 91 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCI | C19H14ClIN4
reactant | 3,3-difluoropyrrolidine hydrochloride | 1 mmol, 143 mg | Cl.FC1(CNCC1)F
reactant | DIPEA | 1.1 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-1-[2-(3,3-difluoropyrrolidin-1-yl)ethyl]-3,5-diphenyl-pyrazolo[3,4-c]pyridazine | 24.5 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCN2CC(CC2)(F)F | C23H20ClF2N5
